US09233968B1
To a solution of 4-ethynylaniline (1.308 g, 11.18 mmol, 1 eq) in anhydrous THF (20 mL) under nitrogen atmosphere at room temperature was added dropwise m-tolyl isocyanate (1.684 mL, 1.2 eq). The yellow reaction solution was stirred at room temperature for 3 hours. The reaction was then partitioned between EtOAc and aq NH4Cl. The organic layer was isolated, washed with saturated aq NaHCO3, brine, and dried with anhydrous sodium sulfate. The upper solvent layer was decanted and concentrated. The resulting solid residue was chromatographed initially with EtOAc-Hex from 1:100 to 1:4 and then continued with an eluent from dichloromethane to MeOH-DCM 1:10. The product fractions were collected, concentrated, and the white solid was triturated with EtOAc-Hex (2:1) at room temperature for 18 h. Upon filtration, 1-(4-ethynylphenyl)-3-(3-methylphenyl)urea was obtained as white solid in amount of 2.134 g.

reactant | 4-ethynylaniline | 11.18 mmol, 1.308 g, 1 eq | C(#C)C1=CC=C(N)C=C1 | C8H7N
reactant | m-tolyl isocyanate | 1.684 mL, 1.2 eq | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(4-ethynylphenyl)-3-(3-methylphenyl)urea | C(#C)C1=CC=C(C=C1)NC(=O)NC1=CC(=CC=C1)C | C16H14N2O
